US04654363
Step J: Preparation of 1-Chloromethyl-2,4,7-trichloronapthalene
(2,4,7-Trichloronaphthalen-1-yl)methanol (1.0 g, 3.8 mmoles) was added portionwise to thionyl chloride (10 ml) with cooling (ice bath). The reaction mixture was stirred at room temperature for 30 minutes and at reflux for 2 hours and then concentrated to dryness in vacuo. The oily residue was taken up in methylene chloride and the solution dried over MgSO4. The solution was filtered and concentrated in vacuo to give 1.0 g of the title compound.

reactant | (2,4,7-Trichloronaphthalen-1-yl)methanol | 3.8 mmoles, 1.0 g | ClC1=C(C2=CC(=CC=C2C(=C1)Cl)Cl)CO | C11H7Cl3O
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-Chloromethyl-2,4,7-trichloronapthalene | 1.0 g | ClCC1=C(C=C(C2=CC=C(C=C12)Cl)Cl)Cl | C11H6Cl4
